US07410976B2
Piperazin-2-one (2.00 g, 20.0 mmol) was dissolved in H2O (10 ml)-1,4-dioxane (10 ml); and NaHCO3 (1.85 g, 22.0 mmol) and benzylchloroformate (3.42 g, 20.0 mmol) was added thereto. After stirring at room temperature for 13 h, the reaction mixture was diluted with H2O and EtOAc. The aqueous layer was extracted with EtOAc and the combined organic layer was washed with brine, dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure to obtain crude 3-Oxo-piperazine-1-carboxylic acid benzyl ester as pale brown oil. This oil was used for the next step without further purification. The crude 3-Oxo-piperazine-1-carboxylic acid benzyl ester was dissolved in DMF (40 ml) and NaH (55% in oil, 1.05 g, 24.0 mmol) and SEMCl (5.01 g, 30.0 mmol) was added thereto at room temperature. After stirring at 50° C. for 18 h, the reaction mixture was diluted with EtOAc. The mixture was washed with H2O and brine, dried over MgSO4. The desiccant was removed through filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/EtOAc=8/2 to 5/5, to obtain the intended compound as a colorless oil.

reactant | Piperazin-2-one | 20.0 mmol, 2.00 g | N1C(CNCC1)=O | C4H8N2O
reactant | NaHCO3 | 22.0 mmol, 1.85 g | C(=O)(O)[O-].[Na+]
reactant | benzylchloroformate | 20.0 mmol, 3.42 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | H2O | 10 ml | O | H2O
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Oxo-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
